US07414063B2
Preparation of [(4-bromo-phenyl)-tert-butoxycarbonyl-amino]-acetic acid methyl ester
Di-tert-butyl dicarbonate (3 g) is added to a stirred solution of (4-bromo-phenylamino)-acetic acid methyl ester (1.02 g, 4.18 mmol) and 4-dimethylamino-pyridine (0.510 g, 4.18 mmol) in dry 1,4-dioxane (10 mL). The mixture is heated at 100° C. for 1.5 hours. After concentration and MPLC separation on silica (gradient 0-15% ethyl acetate in hexane), 1.21 g (84% yield) of the title compound is obtained. 1H NMR (CDCl3): δ1.42 (s, 9H), 3.76 (s, 3H), 4.26 (s, 2H), 7.17 (br d, J=8.4 Hz, 2H), 7.44 (d, J=8.4 Hz, 2H)

reactant | Di-tert-butyl dicarbonate | 3 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | (4-bromo-phenylamino)-acetic acid methyl ester | 4.18 mmol, 1.02 g | COC(CNC1=CC=C(C=C1)Br)=O | C9H10BrNO2
catalyst | 4-dimethylamino-pyridine | 4.18 mmol, 0.510 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | [(4-bromo-phenyl)-tert-butoxycarbonyl-amino]-acetic acid methyl ester | 1.21 g, 84% yield | COC(CN(C(=O)OC(C)(C)C)C1=CC=C(C=C1)Br)=O | C14H18BrNO4
